US04211773
1-(3-O-Acetyl-5-O-benzoyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)thymine (150 mg) is dissolved in saturated methanolic ammonia (15 ml), and the mixture left standing for 16 hours. The solvent is removed by evaporation in vacuo, and the residue crystallized from water to give 80 mg of 1-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)thymine, m.p. 185°-185.5°.

reactant | 1-(3-O-Acetyl-5-O-benzoyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)thymine | 150 mg | C(C)(=O)O[C@H]1[C@@H]([C@@H](O[C@@H]1COC(C1=CC=CC=C1)=O)N1C(=O)NC(=O)C(C)=C1)F | C19H19FN2O7
solvent | ammonia | 15 ml | N | H3N
product | 1-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)thymine | 80 mg | F[C@@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C(C)=C1 | C10H13FN2O5
